US08497371B2
2-(4-{[(4-iodophenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid (3)
Pipemidic acid (25 mg, 0.0824 mmol), 4-iodophenyl isothiocyanate (21.5 mg, 0.0824 mmol) and triethylamine (23 μL, 0.165 mmol) were used. Purification on silica yielded compound 3 in Table 1, below (36 mg, 77%). 1H NMR (300 MHz, CDCl3) δ 9.32 (s, 1H), 8.66 (s, 1H), 7.66 (d, J=6.94 Hz, 1H), 7.37 (s, 1H), 7.27 (s, 1H), 7.00 (d, J=7.44 Hz, 1H), 4.33 (q, J=6.90 Hz, 2H), 4.21-3.99 (m, 8H), 1.49 (t, J=7.14 Hz, 3H) ppm.

reactant | Pipemidic acid | 0.0824 mmol, 25 mg | CCN1C=C(C(=O)C2=C1N=C(N=C2)N3CCNCC3)C(=O)O | C14H17N5O3
reactant | 4-iodophenyl isothiocyanate | 0.0824 mmol, 21.5 mg | IC1=CC=C(C=C1)N=C=S | C7H4INS
reactant | triethylamine | 0.165 mmol, 23 μL | C(C)N(CC)CC | C6H15N
product | 2-(4-{[(4-iodophenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid | IC1=CC=C(C=C1)NC(=S)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)O)CC | C21H21IN6O3S
